US08377895B2
Preparation of 5,7-dihydroxy-8-methoxy-6-(morpholinomethyl)-2-phenyl-4H-chromen-4-one [Morpholine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.1 ml), morpholine (8.7 g) was stirred under for 4 hours at 55° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as yellow solid 36.3 g of purity 99.1%. MS: (API-ES) m/z 384.5[M+H]+, 406.5[M+Na]+; 1H NMR (DMSO-d6, 400 MHz) δ 8.07˜8.08 (m, 2H, Ar-2′,6′-H), 7.61˜7.63 (m, 3H, Ar-3′,4′,5′-H), 7.00 (s, 1H, 3-H), 3.87 (s, 3H, 8-OCH3), 3.82 (s, 2H, CH2), 3.65 (s, 4H, CH2), 2.60 (s, 4H, CH2).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.1 ml | C=O | CH2O
reactant | morpholine | 8.7 g | N1CCOCC1 | C4H9NO
solvent | methanol | 350 ml | CO | CH4O
product | 5,7-dihydroxy-8-methoxy-6-(morpholinomethyl)-2-phenyl-4H-chromen-4-one | 36.3 g | OC1=C2C(C=C(OC2=C(C(=C1CN1CCOCC1)O)OC)C1=CC=CC=C1)=O | C21H21NO6
